US06277987B1
C. 4-Phenoxybenzenesulfonyl chloride
A solution of chlorosulfonic acid (4.3 mL, 64.6 mmol) in dichloromethane (20 mL) is added dropwise to a solution of diphenyl ether (10 g, 58.8 mmol) in dichloromethane (20 mL) at 0° C. under nitrogen atmosphere. The reaction mixture is slowly warmed up to RT and stirred for 2 h. To the mixture are added oxalyl chloride (6.5 ml, 76.4 mmol) and then DMF (1.5 mL) at RT. After being heated at 40° C. for 1 h, the reaction mixture is stirred at RT for 15 h. The mixture is poured to ice-water and extracted with ether. The organic layer is dried over MgSO4 and evaporated in vacuo to give the title compound quantitatively: NMR (CDCl3) 7.10 (t, 4H, J=8.6 Hz), 7.22-7.30 (m, 1 H), 7.46 (t, 2H, J=8.6 Hz), 7.98 (d, 2H, J=9.1 Hz).

reactant | chlorosulfonic acid | 64.6 mmol, 4.3 mL | ClS(=O)(=O)O | ClHO3S
reactant | diphenyl ether | 58.8 mmol, 10 g | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
reactant | oxalyl chloride | 76.4 mmol, 6.5 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMF | 1.5 mL | CN(C)C=O | C3H7NO
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 4-Phenoxybenzenesulfonyl chloride | O(C1=CC=CC=C1)C1=CC=C(C=C1)S(=O)(=O)Cl | C12H9ClO3S
